US06881736B1
d) (±)-N-[2-[4-(Triisopropylsilyloxy)benzyl]-3-(carbomethoxy)propionyl]serine benzyl ester
To a solution of methyl (±)-3-carboxy-4-[4-(triisopropylsilyloxy)phenyl]butanoate (5.00 g, 12.67 mmole) in dry DMF (60 mL) at RT was added serine benzyl ester hydrochloride (3.52 g, 15.21 mmole), HOBt (2.06 g, 15.21 mmole), Et3N (5.3 mL, 38.01 mmole), and EDC (2.92 g, 15.21 mmole). After 18 hr the mixture was concentrated. The residue was chromatographed on silica gel (80% EtOAc/hexanes) to give the title compound (5.76 mg, 79%) as a pale yellow oil: MS (ES) m/e 572 (M+H)+.

reactant | methyl (±)-3-carboxy-4-[4-(triisopropylsilyloxy)phenyl]butanoate | 12.67 mmole, 5.00 g | C(=O)(O)C(CC(=O)OC)CC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C21H34O5Si
reactant | serine benzyl ester hydrochloride | 15.21 mmole, 3.52 g | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CO)=O
reactant | HOBt | 15.21 mmole, 2.06 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 38.01 mmole, 5.3 mL | CCN(CC)CC | C6H15N
reactant | EDC | 15.21 mmole, 2.92 g
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (±)-N-[2-[4-(Triisopropylsilyloxy)benzyl]-3-(carbomethoxy)propionyl]serine benzyl ester | 5.76 mg, 79% | C(C1=CC=CC=C1)OC([C@@H](NC(C(CC(=O)OC)CC1=CC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)=O)CO)=O | C31H45NO7Si
